US07875639B2
5-bromo-3-(2-methoxyethyl)thiazol-2(3H)-imine hydrobromide
2-Amino-5-bromothiazole (Aldrich) and 2-bromoethyl methyl ether were processed as described in Example 2A to afford the title compound. MS (DCI/NH3) m/z 238 (M+H)+.

reactant | 2-Amino-5-bromothiazole | NC=1SC(=CN1)Br | C3H3BrN2S
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 5-bromo-3-(2-methoxyethyl)thiazol-2(3H)-imine hydrobromide | Br.BrC1=CN(C(S1)=N)CCOC | InChI=1S/C6H9BrN2OS.BrH/c1-10-3-2-9-4-5(7)11-6(9)8;/h4,8H,2-3H2,1H3;1H
